US06960601B2
Thionyl chloride (0.66 mL, 9 mmol) was added to a solution of 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid (1 g, 3 mmol) in toluene (10 mL). The mixture was refluxed under argon for 1.5 h and concentrated to provide 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carbonyl chloride, which was used in the next step without purification. 1H NMR (300 MHz, CD2Cl2) δ 8.40 (s, 1H), 7.69-7.09 (m, 8H).

reactant | Thionyl chloride | 9 mmol, 0.66 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid | 3 mmol, 1 g | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carbonyl chloride | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)Cl)C1=CC=C(C=C1)Cl | C16H9Cl3N2O
